US07329749B2
Analogously to Example 1, quinaldic acid is reacted with 1-[2-(4-fluoro-phenyl)ethyl]piperazine, giving {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}-quinolin-2-ylmethanone.

reactant | quinaldic acid | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | 1-[2-(4-fluoro-phenyl)ethyl]piperazine | FC1=CC=C(C=C1)CCN1CCNCC1 | C12H17FN2
product | {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}-quinolin-2-ylmethanone | FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C1=NC2=CC=CC=C2C=C1 | C22H22FN3O
